US06765012B2
3-{[4-(2-Piperidin-1-yl-ethoxy)-phenylamino]-methylene}-1,3-dihydro-indol-2-one
In a manner similar to that described in Example 231, 4-(2-piperidin-1-yl-ethoxy)-phenylamine (820 mg, 1.2 equiv.) and 3-hydroxymethylene-1,3-dihydro-indol-2-one (500 mg, 3.11 mmol, 1 equiv.) are reacted to give the named compound as a yellow solid (899 mg, 80%).

reactant | 4-(2-piperidin-1-yl-ethoxy)-phenylamine | 820 mg, 1.2 equiv. | N1(CCCCC1)CCOC1=CC=C(C=C1)N | C13H20N2O
reactant | 3-hydroxymethylene-1,3-dihydro-indol-2-one | 3.11 mmol, 500 mg, 1 equiv. | OC=C1C(NC2=CC=CC=C12)=O | C9H7NO2
product | 3-{[4-(2-Piperidin-1-yl-ethoxy)-phenylamino]-methylene}-1,3-dihydro-indol-2-one | 899 mg, 80% | N1(CCCCC1)CCOC1=CC=C(C=C1)NC=C1C(NC2=CC=CC=C12)=O | C22H25N3O2
